US04797403
A. 3-(1-Methyltetrazol-3-yl)aniline
The nitro group was reduced as follows: To a 250 ml Parr bottle were added 800 mg (3.9 mmol) of 3-(1-methyltetrazol-3-yl)nitrobenzene, 200 mg platinum oxide, and 75 ml ethanol. The reaction was pressurized with 45 p.s.i. hydrogen for 1 hour, then catalyst removed by filtration, and the solvent evaporated to afford 635 mg (93.0%) of a white solid, mp 93°-95° C.

reactant | 3-(1-methyltetrazol-3-yl)nitrobenzene | 3.9 mmol, 800 mg | CN1NN(N=C1)C=1C=C(C=CC1)[N+](=O)[O-] | C8H9N5O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 200 mg | [Pt]=O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 3-(1-Methyltetrazol-3-yl)aniline | 635 mg, 93.0% | CN1NN(N=C1)C=1C=C(N)C=CC1 | C8H11N5
